US08471005B2
A mixture of 4-(4-Methyl-piperazin-1-yl)-phenylamine (0.086 g, 0.45 mmol), 7-(2,3-Dihydro-1,4-benzodioxin-5-yl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (0.08 g, 0.20 mmol) and Potassium acetate (0.12 g, 1.2 mmol) in Dimethyl sulfoxide (0.9 mL, 10 mmol) was heated in sealed tube at 140° C. for 4 hours. Dilution of the mixture with water (20 mL) and extraction with DCM, gave a brown solid. Purification by prep plate chromatography with DCM-methanol (10-1) gave [7-(2,3-Dihydro-1,4-benzodioxin-5-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.057 g, 50%). MP: 212-213° C.; LCMS (m/e) 443 (M+1); 1H-NMR (DMSO-d6, 400 MHz) δ 9.16 (s, 1H), 8.91 (s, 1H), 7.60-7.58 (d, 2H, J=9.00 Hz), 7.44-7.42 (dd, 1H, J=4.97 Hz), 7.02-6.96 (q, 2H, J=8.04 Hz), 6.93-6.92 (d, 1H, J=4.65 Hz), 6.88-6.87 (d, 1H, J=4.64 Hz), 6.81-6.79 (d, 2H, J=9.01 Hz), 5.76 (s, 1H), 4.30-4.25 (d, 4H, J=4.88 Hz), 3.32 (s, 3H), 3.03 (s, 3H), 2.45-2.43 (t, 1H, J=4.76 Hz), 2.21 (s, 1H).

reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.45 mmol, 0.086 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 7-(2,3-Dihydro-1,4-benzodioxin-5-yl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.20 mmol, 0.08 g | O1CCOC2=C1C=CC=C2C2=CC=C1C=NC(=NN12)S(=O)C | C15H13N3O3S
reactant | Potassium acetate | 1.2 mmol, 0.12 g | C(C)(=O)[O-].[K+]
reactant | Dimethyl sulfoxide | 10 mmol, 0.9 mL | CS(=O)C | C2H6OS
product | [7-(2,3-Dihydro-1,4-benzodioxin-5-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.057 g, 50% | O1CCOC2=C1C=CC=C2C2=CC=C1C=NC(=NN12)NC1=CC=C(C=C1)N1CCN(CC1)C | C25H26N6O2
